US04263037
2-(5-Cyano-2-propionyloxyphenyl)-2-methyl-1-propyl propionate
Propionyl chloride (5.1 g) was added dropwise to 2-(2-hydroxy-5-cyanophenyl)-2-methyl-1-propanol (5 g) prepared as in Example 26 and triethylamine (5.5 g) in diethyl ether (50 ml) with stirring and cooling. After stirring for 3 hours at room temperature, the mixture was washed twice with water, dried over magnesium sulphate and run down, giving 6.5 g of crude product. After filtration through alumina in toluene, 5.3 g of title product were obtained as a viscous oil.

reactant | Propionyl chloride | 5.1 g | C(CC)(=O)Cl | C3H5ClO
reactant | 2-(2-hydroxy-5-cyanophenyl)-2-methyl-1-propanol | 5 g | OC1=C(C=C(C=C1)C#N)C(CO)(C)C | C11H13NO2
reactant | triethylamine | 5.5 g | C(C)N(CC)CC | C6H15N
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2-(5-Cyano-2-propionyloxyphenyl)-2-methyl-1-propyl propionate | 5.3 g | C(CC)(=O)OCC(C)(C)C1=C(C=CC(=C1)C#N)OC(CC)=O | C17H21NO4
